US04030925
2. 1-Benzoyl-2-(4-nitrophenyl)hydrazine
4-Nitrophenylhydrazine (15.0 g, 0.10 mole) and benzoic anhydride (22.6 g, 0.10 mole) were mixed in benzene (100 ml) and the mixture was refluxed for 2 hours. The reaction mixture was chilled in ice and then filtered. The solid was washed with ethanol and allowed to dry. The material was recrystallized from ethanol. Yield 20.5 g (80%), m.p. 194°-195° C.

reactant | 4-Nitrophenylhydrazine | 0.10 mole, 15.0 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
reactant | benzoic anhydride | 0.10 mole, 22.6 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-Benzoyl-2-(4-nitrophenyl)hydrazine | C(C1=CC=CC=C1)(=O)NNC1=CC=C(C=C1)[N+](=O)[O-] | C13H11N3O3
